US05952495
A solution of 6-acetylcodeine (10.0 g, 29.3 mmol), 1 chloroethyl chloroformate (5.56 g,38.1 mmol), and proton sponge (1.0 g) in methylene chloride (50 ml) was heated at reflux for 50 min. The reaction mixture was evaporated in vacuo to about 30 ml. Methanol (25 ml) and concentrated HCl (2 ml) were added. The solution was heated at reflux for 40 min. and evaporated in vacuo to almost dryness. The residue was added hexane and filtered to give norcodeine hydrochloride (8.8 g, 93% yield). IR (KBr), (ν, cm-1): 3540 (NH), 3380 (6-OH), 2800-2600 (broad) and 2480 (sharp) (NH·HCl); NMR (δH)(DMSO-d6): 9.66 (2, s (broad), 17-N+H2Cl-), 6.72 (1, d, J, 8.2, 2-H), 6.57 (1, d, J, 8.2, 1-H), 5.66 (1, dt, J, 9.9 & 3.0, 7-H), 5.28 (1, dt, J, 9.8 & 3.0, 8-H), 5.10 (1, s (broad), 6-OH), 4.82 (1, dd, J, 6.1 & 1.2, 5-H), 4.15 (2, m, 6-H & 9-H), 3.77 (3, s, 3-OCH3), 3.22 (1, d, J, 19.1, 10-Hβ), 3.21 (1, td, J, 13.2 & 4.1, 16-He), 3.06 (1, m, 14-H), 2.91 (1, dd, J, 18.5 & 6.3, 10-Hα), 2.79 (1, dd, J, 13.0 & 3.9, 16-Ha), 2.22 (1, td, J, 13.4 & 4.9, 15-Ha) and 1.89 (1, dd, J, 13.6 & 2.7, 15-He).

reactant | 6-acetylcodeine | 29.3 mmol, 10.0 g | CC(=O)O[C@H]1C=C[C@H]2[C@H]3CC4=C5[C@]2([C@H]1OC5=C(C=C4)OC)CCN3C | C20H23NO4
reactant | chloroethyl chloroformate | 38.1 mmol, 5.56 g | ClC(=O)OCCCl | C3H4Cl2O2
reactant | proton sponge | 1.0 g | CN(C)C1=CC=CC2=C1C(=CC=C2)N(C)C | C14H18N2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | norcodeine hydrochloride | 8.8 g, 93% yield | COC1=C2C3=C(C[C@@H]4[C@H]5[C@]3(CCN4)[C@@H](O2)[C@H](C=C5)O)C=C1.Cl | InChI=1S/C17H19NO3.ClH/c1-20-13-5-2-9-8-11-10-3-4-12(19)16-17(10,6-7-18-11)14(9)15(13)21-16;/h2-5,10-12,16,18-19H,6-8H2,1H3;1H/t10-,11+,12-,16-,17-;/m0./s1
